US07015218B1
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 59 using N-(tert-butoxycarbonyl)-4-hydroxypiperidine, sodium hydride and methoxymethylchloride, N-(tert-butoxycarbonyl)-4-methoxymethoxypiperidine was obtained. This was treated with trifluoroacetic acid-chloroform to give 4-methoxymethoxypiperidine, which was subjected to the reaction and treatment in the same manner as in Starting Material Synthesis Example 40 using 4-fold equivalents of triethylamine to give the title compound.

reactant | N-(tert-butoxycarbonyl)-4-hydroxypiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | sodium hydride | [H-].[Na+]
reactant | methoxymethylchloride | COCCl | C2H5ClO
product | N-(tert-butoxycarbonyl)-4-methoxymethoxypiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)OCOC | C12H23NO4
